US04837238
6-Acetyl-7-chloro-1H-pyrazolo[4,3-b]pyridine (D15)
A mixture of 6-acetyl-4,7-dihydro-7-oxo-1H-pyrazolo-[4,3-b]pyridine (D14, 1.6 g, 9 mmol) and phosphorus oxychloride (15 ml) was heated at 80° C. for 30 min. Excess reagent was removed in vacuo, water was added and the mixture was adjusted to pH 9 with 10% sodium carbonate solution. The resulting mixture was extracted with ethyl acetate (4×50 ml), and the extracts were washed with brine, dried (MgSO4) and evaporated in vacuo to leave the title compound as a yellow solid, which was used without further purification.

reactant | 6-acetyl-4,7-dihydro-7-oxo-1H-pyrazolo-[4,3-b]pyridine | 9 mmol, 1.6 g | C(C)(=O)C=1C(C2=C(NC1)C=NN2)=O | C8H7N3O2
reactant | phosphorus oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-Acetyl-7-chloro-1H-pyrazolo[4,3-b]pyridine | C(C)(=O)C=1C(=C2C(=NC1)C=NN2)Cl | C8H6ClN3O
